US07241901B2
Preparation of ethyl 4-iodo-2-methyl-phenoxyacetate [Step D]
4-Iodo-2-methylphenol (3.0 g, 12.9 mmol) was dissolved in acetone (250 ml) at room temperature, and then potassium carbonate (2.67 g, 19.4 mmol, 1.5 eq.) was added thereto and vigorously stirred. Ethyl bromoacetate (1.56 ml, 14.1 mmol, 1.5 eq.) was quickly added to the mixture, and then reacted further at room temperature for 4 hours. After completion of the reaction, the reaction mixture was extracted with aqueous ammonium chloride solution and ethyl acetate, and dried over magnesium sulfate. The crude product was purified on silica flash column. The solvent was evaporated under reduced pressure to thereby yield 4.26 g of the title compound (yield: 98.5%).

reactant | 4-Iodo-2-methylphenol | 12.9 mmol, 3.0 g | IC1=CC(=C(C=C1)O)C | C7H7IO
reactant | potassium carbonate | 19.4 mmol, 2.67 g, 1.5 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl bromoacetate | 14.1 mmol, 1.56 ml, 1.5 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | ethyl 4-iodo-2-methyl-phenoxyacetate | yield 4.26 g, yield: 98.5% | IC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H13IO3
